US07595319B2
4-bromo-N-(3-methylbutyl)-benzenesulfonamide
Starting materials: isoamylamine and 4-bromobenzenesulfonyl chloride. Yield 98% as a white solid: 1H NMR (CDCl3) δ 7.71 (d, J=9 Hz, 2H), 7.62 (d, J=9 Hz, 2H), 4.26 (br s, 1H), 2.82 (t, J=7 Hz, 2H), 1.52 (m, 1H), 1.30 (q, J=7 Hz, 2H), 0.86 (s, 3H), 0.84 (s, 3H); 13C NMR (CDCl3) δ 139.3, 132.6, 128.8, 127.7, 41.7, 38.6, 25.6, 22.8, 22.4; MS (ESP) m/z 306, 308 (M++1).

reactant | isoamylamine | C(CC(C)C)N | C5H13N
reactant | 4-bromobenzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-bromo-N-(3-methylbutyl)-benzenesulfonamide | Yield 98% | BrC1=CC=C(C=C1)S(=O)(=O)NCCC(C)C | C11H16BrNO2S
